US04622318
To a suspension of benzhydryl 7-[2-(2-aminothiazol-4-yl)-2-methoxyiminoacetamido]-3-[(Z)-2-(3-pyridyl)vinylthiomethyl]-3-cephem-4-carboxylate (syn isomer) (1 g) in anisole (2.5 ml) was added trifluoroacetic acid (6 ml) under ice-cooling. The mixture was stirred for 40 minutes at ambient temperature, concentrated in vacuo to about a half volume and poured into diisopropyl ether (120 ml). The resulting precipitate was collected, dissolved in an aqueous solution (150 ml) of sodium bicarbonate (320 mg). The aqueous solution was washed with ethyl acetate and adjusted to pH 4-5 with 1N hydrochloric acid to give a precipitate. The precipitate was collected, washed with water and dried over phosphorus pentoxide to give 7-[2-(2-aminothiazol-4-yl)-2-methoxyiminoacetamido]-3-[(Z)-2-(3-pyridyl)vinylthiomethyl]-3-cephem-4-carboxylic acid (syn isomer) (330 mg).

reactant | benzhydryl 7-[2-(2-aminothiazol-4-yl)-2-methoxyiminoacetamido]-3-[(Z)-2-(3-pyridyl)vinylthiomethyl]-3-cephem-4-carboxylate | 1 g | NC=1SC=C(N1)C(C(=O)NC1[C@@H]2N(C(=C(CS2)CS\C=C/C=2C=NC=CC2)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O)=NOC | C34H30N6O5S3
reactant | trifluoroacetic acid | 6 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | anisole | 2.5 ml | C1(=CC=CC=C1)OC | C7H8O
product | 7-[2-(2-aminothiazol-4-yl)-2-methoxyiminoacetamido]-3-[(Z)-2-(3-pyridyl)vinylthiomethyl]-3-cephem-4-carboxylic acid | 330 mg | NC=1SC=C(N1)C(C(=O)NC1[C@@H]2N(C(=C(CS2)CS\C=C/C=2C=NC=CC2)C(=O)O)C1=O)=NOC | C21H20N6O5S3
